US07132539B2
Preparation of 2-{4-[2-tert-butoxycarbonylamino-3-(4-chlorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid methyl ester (42):
2-(3-Ethyl-piperazin-1-yl)-3-naphthalen-2-yl-propionic acid methyl ester, 34, (0.52 g, 1.6 mmol) and Boc-D-4-chlorophenylalanine (0.5 g, 1.7 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluoro-phosphate (1.2 g, 3.2 mmol) are dissolved in anhydrous DMF (20 mL). The reaction mixture is cooled to 0° C., then N-methylmorpholine (0.35 mL, 3.2 mmol) is added. The reaction mixture is placed in a refrigerator overnight. EtOAc (75 mL) and water (100 mL) are added, and the organic layer is separated. The aqueous layer is extracted with EtOAc (3×50 mL). All organic layers are combined and washed with water (20 mL), and dried over Na2SO4. The organic layers are concentrated in vacuo to afford 1.0 g (quantitative yield) of the desired product. 1H NMR (CDCl3, δ): 7.70–7.65 (m, 3H), 7.52 (s, 1H), 7.35–7.32 (m, 2H), 7.22–7.13 (m, 4H), 7.07–7.02 (m, 2H), 5.59 (dd, J=13.5, 8.7 Hz, 1H), 4.74 (q, J=7.5 Hz, 1H), 2.28–4.21 (m, 1H), 3.53 (d, J=12.3 Hz, 3H), 3.42–3.08 (m, 2H), 3.04–2.81 m, 4H), 2.80 (s, 1H), 2.75 (s, 3H), 2.64–2.60 (m, 1H), 2.46 (t, J=10.5 Hz, 1H), 2.20–2.05 (m, 1H), 1.55–1.40 (m, 1H), 1.18 (s,9H), 0.54–0.47 (m, 2H); 13C NMR, δ 171.6, 170.5, 170.0, 162.9, 155.0, 150.7, 135.8, 135.2, 133.6, 132.8, 132.4, 131.1, 131.2, 128.9, 128.7, 128.6, 128.0, 127.7, 127.6, 126.2, 125.6, 124.5, 120.4, 79.7, 68.9, 60.5, 55.8, 53.7, 51.4, 51.0, 47.4, 47.0, 41.5, 40.0, 39.0, 38.7, 38.0, 36.6, 35.3, 35.0, 31.6, 28.4, 22.8, 21.8, 21.1, 14.3,10.5, 10.0.

reactant | 2-(3-Ethyl-piperazin-1-yl)-3-naphthalen-2-yl-propionic acid methyl ester | COC(C(CC1=CC2=CC=CC=C2C=C1)N1CC(NCC1)CC)=O | C20H26N2O2
reactant | Boc-D-4-chlorophenylalanine | 1.7 mmol, 0.5 g | CC(C)(C)OC(=O)N[C@H](CC1=CC=C(C=C1)Cl)C(=O)O | C14H18ClNO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluoro-phosphate | 3.2 mmol, 1.2 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylmorpholine | 3.2 mmol, 0.35 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 2-{4-[2-tert-butoxycarbonylamino-3-(4-chlorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-3-naphthalen-2-yl-propionic acid methyl ester | 1.0 g, quantitative yield | COC(C(CC1=CC2=CC=CC=C2C=C1)N1CC(N(CC1)C(C(CC1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O)CC)=O | C34H42ClN3O5
